US06573263B2
1.44 g (6.50 mmol) 2-(1-hydroxyethyl)-5-phenylpentanoic acid are reacted analogously to Example 39A with 1.00 g (6.50 mmol) of 1-hydroxy-1H-benzotriazole, 1.97 g (19.5 mmol) of 4-methylmorpholine, 1.25 g (6.350 mmol) of N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride and 2.15 g (6.32 mmol) of 6-(1-aminopropyl)-3-(3,4-dimethoxybenzyl)-1,2,4-triazin-5(4H)-one to give N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-2-(1-hydroxyethyl)-5-phenylpentanamide.

reactant | 2-(1-hydroxyethyl)-5-phenylpentanoic acid | 6.50 mmol, 1.44 g | OC(C)C(C(=O)O)CCCC1=CC=CC=C1 | C13H18O3
reactant | 1-hydroxy-1H-benzotriazole | 6.50 mmol, 1.00 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 19.5 mmol, 1.97 g | CN1CCOCC1 | C5H11NO
reactant | N′-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 6.350 mmol, 1.25 g | Cl.CN(CCCN=C=NCC)C
reactant | 6-(1-aminopropyl)-3-(3,4-dimethoxybenzyl)-1,2,4-triazin-5(4H)-one | 6.32 mmol, 2.15 g | NC(CC)C=1C(NC(=NN1)CC1=CC(=C(C=C1)OC)OC)=O | C15H20N4O3
product | N-{1-[3-(3,4-dimethoxybenzyl)-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl]propyl}-2-(1-hydroxyethyl)-5-phenylpentanamide | COC=1C=C(CC2=NN=C(C(N2)=O)C(CC)NC(C(CCCC2=CC=CC=C2)C(C)O)=O)C=CC1OC | C28H36N4O5
